** sch_path: /home/designer/shared/CS_DAC/CS_DAC-/xschem/CS_DAC_10b.sch
.subckt CS_DAC_10b CLK OUTN OUTP VBIAS VDD VSS X1 X10 X2 X3 X4 X5 X6 X7 X8 X9
*.PININFO X9:I X8:I X7:I X6:I X5:I X4:I X3:I X2:I X10:I X1:I VSS:B VDD:I VBIAS:I OUTP:B OUTN:B CLK:I
x3 net8 net9 net10 net11 net12 net13 net14 X5 X6 X7 VDD VSS thermo_decoder
x4 net1 net2 net3 net4 net5 net6 net7 X8 X9 X10 VDD VSS thermo_decoder
x1 net8 net9 net10 net11 net12 net13 net14 CLK net1 net2 net3 net4 net5 net6 net7 OUTN OUTP VBIAS VDD VSS 6MSB
x2 CLK OUTN OUTP VBIAS VDD VSS X1 X2 X3 X4 4LSB_weighted
.ends

* expanding   symbol:  thermo_decoder.sym # of pins=12
** sym_path: /home/designer/shared/CS_DAC/CS_DAC-/xschem/thermo_decoder.sym
** sch_path: /home/designer/shared/CS_DAC/CS_DAC-/xschem/thermo_decoder.sch
.subckt thermo_decoder D1 D2 D3 D4 D5 D6 D7 X0 X1 X2 VDD VSS
*.PININFO X2:I X1:I X0:I D7:O D6:O D5:O D4:O D3:O D1:O D2:O VDD:I VSS:I
x1 net1 X0 X1 VDD VSS sg13g2_and2_2
x2 D7 X2 net1 VDD VSS sg13g2_and2_2
x3 D6 X1 X2 VDD VSS sg13g2_and2_2
x4 D2 X2 X1 VDD VSS sg13g2_or2_2
x5 D1 D2 X0 VDD VSS sg13g2_or2_2
x6 net3 X0 X1 VDD VSS sg13g2_or2_2
x7 D5 X2 net3 VDD VSS sg13g2_and2_2
x8 net2 X0 X1 VDD VSS sg13g2_and2_2
x9 D3 net2 X2 VDD VSS sg13g2_or2_2
x10 D4 X2 VDD VSS sg13g2_buf_2
.ends


* expanding   symbol:  6MSB.sym # of pins=20
** sym_path: /home/designer/shared/CS_DAC/CS_DAC-/xschem/6MSB.sym
** sch_path: /home/designer/shared/CS_DAC/CS_DAC-/xschem/6MSB.sch
.subckt 6MSB C1 C2 C3 C4 C5 C6 C7 CLK D1 D2 D3 D4 D5 D6 D7 OUTN OUTP VBIAS VDD VSS
*.PININFO VSS:B VDD:I VBIAS:I OUTP:B OUTN:B D7:I D6:I D5:I D4:I D3:I D2:I D1:I CLK:I C7:I C6:I C5:I C4:I C3:I C2:I C1:I
x33 CLK C1 OUTN OUTP D1 VDD VBIAS VDD VSS Unit_cell
x1 CLK C2 OUTN OUTP D1 VDD VBIAS VDD VSS Unit_cell
x2 CLK C3 OUTN OUTP D1 VDD VBIAS VDD VSS Unit_cell
x3 CLK C4 OUTN OUTP D1 VDD VBIAS VDD VSS Unit_cell
x4 CLK C5 OUTN OUTP D1 VDD VBIAS VDD VSS Unit_cell
x5 CLK C6 OUTN OUTP D1 VDD VBIAS VDD VSS Unit_cell
x6 CLK C7 OUTN OUTP D1 VDD VBIAS VDD VSS Unit_cell
x7 CLK VSS OUTN OUTP D1 VDD VBIAS VDD VSS Unit_cell
x8 CLK C1 OUTN OUTP D2 D1 VBIAS VDD VSS Unit_cell
x9 CLK C2 OUTN OUTP D2 D1 VBIAS VDD VSS Unit_cell
x10 CLK C3 OUTN OUTP D2 D1 VBIAS VDD VSS Unit_cell
x11 CLK C4 OUTN OUTP D2 D1 VBIAS VDD VSS Unit_cell
x12 CLK C5 OUTN OUTP D2 D1 VBIAS VDD VSS Unit_cell
x13 CLK C6 OUTN OUTP D2 D1 VBIAS VDD VSS Unit_cell
x14 CLK C7 OUTN OUTP D2 D1 VBIAS VDD VSS Unit_cell
x15 CLK VSS OUTN OUTP D2 D1 VBIAS VDD VSS Unit_cell
x64 CLK C7 OUTN OUTP D3 D2 VBIAS VDD VSS Unit_cell
x21 CLK VSS OUTN OUTP D3 D2 VBIAS VDD VSS Unit_cell
x22 CLK C6 OUTN OUTP D3 D2 VBIAS VDD VSS Unit_cell
x23 CLK C5 OUTN OUTP D3 D2 VBIAS VDD VSS Unit_cell
x17 CLK C4 OUTN OUTP D3 D2 VBIAS VDD VSS Unit_cell
x18 CLK C3 OUTN OUTP D3 D2 VBIAS VDD VSS Unit_cell
x16 CLK C2 OUTN OUTP D3 D2 VBIAS VDD VSS Unit_cell
x19 CLK C1 OUTN OUTP D3 D2 VBIAS VDD VSS Unit_cell
x20 CLK C1 OUTN OUTP D4 D3 VBIAS VDD VSS Unit_cell
x24 CLK C2 OUTN OUTP D4 D3 VBIAS VDD VSS Unit_cell
x25 CLK C3 OUTN OUTP D4 D3 VBIAS VDD VSS Unit_cell
x26 CLK C4 OUTN OUTP D4 D3 VBIAS VDD VSS Unit_cell
x27 CLK C5 OUTN OUTP D4 D3 VBIAS VDD VSS Unit_cell
x28 CLK C6 OUTN OUTP D4 D3 VBIAS VDD VSS Unit_cell
x29 CLK C7 OUTN OUTP D4 D3 VBIAS VDD VSS Unit_cell
x30 CLK VSS OUTN OUTP D4 D3 VBIAS VDD VSS Unit_cell
x31 CLK VSS OUTN OUTP D5 D4 VBIAS VDD VSS Unit_cell
x32 CLK C7 OUTN OUTP D5 D4 VBIAS VDD VSS Unit_cell
x34 CLK C6 OUTN OUTP D5 D4 VBIAS VDD VSS Unit_cell
x35 CLK C5 OUTN OUTP D5 D4 VBIAS VDD VSS Unit_cell
x36 CLK C4 OUTN OUTP D5 D4 VBIAS VDD VSS Unit_cell
x37 CLK C3 OUTN OUTP D5 D4 VBIAS VDD VSS Unit_cell
x38 CLK C2 OUTN OUTP D5 D4 VBIAS VDD VSS Unit_cell
x39 CLK C1 OUTN OUTP D5 D4 VBIAS VDD VSS Unit_cell
x40 CLK C1 OUTN OUTP D6 D5 VBIAS VDD VSS Unit_cell
x41 CLK C2 OUTN OUTP D6 D5 VBIAS VDD VSS Unit_cell
x42 CLK C3 OUTN OUTP D6 D5 VBIAS VDD VSS Unit_cell
x43 CLK C4 OUTN OUTP D6 D5 VBIAS VDD VSS Unit_cell
x44 CLK C5 OUTN OUTP D6 D5 VBIAS VDD VSS Unit_cell
x45 CLK C6 OUTN OUTP D6 D5 VBIAS VDD VSS Unit_cell
x46 CLK C7 OUTN OUTP D6 D5 VBIAS VDD VSS Unit_cell
x47 CLK VSS OUTN OUTP D6 D5 VBIAS VDD VSS Unit_cell
x48 CLK VSS OUTN OUTP D7 D6 VBIAS VDD VSS Unit_cell
x49 CLK C7 OUTN OUTP D7 D6 VBIAS VDD VSS Unit_cell
x50 CLK C6 OUTN OUTP D7 D6 VBIAS VDD VSS Unit_cell
x51 CLK C5 OUTN OUTP D7 D6 VBIAS VDD VSS Unit_cell
x52 CLK C4 OUTN OUTP D7 D6 VBIAS VDD VSS Unit_cell
x53 CLK C3 OUTN OUTP D7 D6 VBIAS VDD VSS Unit_cell
x54 CLK C2 OUTN OUTP D7 D6 VBIAS VDD VSS Unit_cell
x55 CLK C1 OUTN OUTP D7 D6 VBIAS VDD VSS Unit_cell
x56 CLK C1 OUTN OUTP VSS D7 VBIAS VDD VSS Unit_cell
x57 CLK C2 OUTN OUTP VSS D7 VBIAS VDD VSS Unit_cell
x58 CLK C3 OUTN OUTP VSS D7 VBIAS VDD VSS Unit_cell
x59 CLK C4 OUTN OUTP VSS D7 VBIAS VDD VSS Unit_cell
x60 CLK C5 OUTN OUTP VSS D7 VBIAS VDD VSS Unit_cell
x61 CLK C6 OUTN OUTP VSS D7 VBIAS VDD VSS Unit_cell
x62 CLK C7 OUTN OUTP VSS D7 VBIAS VDD VSS Unit_cell
.ends


* expanding   symbol:  4LSB_weighted.sym # of pins=10
** sym_path: /home/designer/shared/CS_DAC/CS_DAC-/xschem/4LSB_weighted.sym
** sch_path: /home/designer/shared/CS_DAC/CS_DAC-/xschem/4LSB_weighted.sch
.subckt 4LSB_weighted CLK OUTN OUTP VBIAS VDD VSS X1 X2 X3 X4
*.PININFO X4:I X3:I X2:I X1:I VSS:B VDD:I VBIAS:I OUTP:B OUTN:B CLK:I
x4 net3 net4 CLK X2 VDD VDD VSS sg13g2_dfrbp_2
x6 net5 net6 CLK X3 VDD VDD VSS sg13g2_dfrbp_2
x7 net7 net8 CLK X4 VDD VDD VSS sg13g2_dfrbp_2
x2 net2 net1 OUTN OUTP VBIAS VSS CS_Switch_1x
x3 net4 net3 OUTN OUTP VBIAS VSS CS_Switch_2x
x5 net6 net5 OUTN OUTP VBIAS VSS CS_Switch_4x
x8 net8 net7 OUTN OUTP VBIAS VSS CS_Switch_8x
x1 net1 net2 CLK X1 VDD VDD VSS sg13g2_dfrbp_2
.ends


* expanding   symbol:  sg13g2_and2_2.sym # of pins=3
** sym_path: /opt/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/sym/xschem/sg13g2_and2_2.sym
** sch_path: /opt/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/sch/xschem/sg13g2_and2_2.sch
.subckt sg13g2_and2_2 X A B VDD VSS

*.PININFO A:I B:I X:O
MM1 net1 A net2 VSS sg13_lv_nmos w=640.00n l=130.00n ng=1
MM2 net2 B VSS VSS sg13_lv_nmos w=640.00n l=130.00n ng=1
MM3 X net1 VSS VSS sg13_lv_nmos w=1.48u l=130.00n ng=2
MM4 net1 B VDD VDD sg13_lv_pmos w=840.00n l=130.00n ng=1
MM5 net1 A VDD VDD sg13_lv_pmos w=840.00n l=130.00n ng=1
MM6 X net1 VDD VDD sg13_lv_pmos w=2.24u l=130.00n ng=2
.ends


* expanding   symbol:  sg13g2_or2_2.sym # of pins=3
** sym_path: /opt/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/sym/xschem/sg13g2_or2_2.sym
** sch_path: /opt/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/sch/xschem/sg13g2_or2_2.sch
.subckt sg13g2_or2_2 X A B VDD VSS

*.PININFO X:O B:I A:I
MM1 net1 B VSS VSS sg13_lv_nmos w=550.00n l=130.00n ng=1
MM2 net1 A VSS VSS sg13_lv_nmos w=550.00n l=130.00n ng=1
MM3 X net1 VSS VSS sg13_lv_nmos w=1.48u l=130.00n ng=2
MM4 net2 A VDD VDD sg13_lv_pmos w=840.00n l=130.00n ng=1
MM5 net1 B net2 VDD sg13_lv_pmos w=840.00n l=130.00n ng=1
MM6 X net1 VDD VDD sg13_lv_pmos w=2.24u l=130.00n ng=2
.ends


* expanding   symbol:  sg13g2_buf_2.sym # of pins=2
** sym_path: /opt/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/sym/xschem/sg13g2_buf_2.sym
** sch_path: /opt/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/sch/xschem/sg13g2_buf_2.sch
.subckt sg13g2_buf_2 X A VDD VSS

*.PININFO A:I X:O
MM1 net1 A VSS VSS sg13_lv_nmos w=640.00n l=130.00n ng=1
MM2 X net1 VSS VSS sg13_lv_nmos w=1.48u l=130.00n ng=2
MM3 net1 A VDD VDD sg13_lv_pmos w=1.000u l=130.00n ng=1
MM4 X net1 VDD VDD sg13_lv_pmos w=2.24u l=130.00n ng=2
.ends


* expanding   symbol:  Unit_cell.sym # of pins=9
** sym_path: /home/designer/shared/CS_DAC/CS_DAC-/xschem/Unit_cell.sym
** sch_path: /home/designer/shared/CS_DAC/CS_DAC-/xschem/Unit_cell.sch
.subckt Unit_cell CLK Ci OUTN OUTP Ri Ri-1 VBIAS VDD VSS
*.PININFO VSS:B VDD:I VBIAS:I Ri-1:I Ri:I OUTP:B OUTN:B Ci:I CLK:I
x2 net1 Ri Ci VDD VSS sg13g2_or2_2
x3 net2 Ri-1 net1 VDD VSS sg13g2_nand2_2
x6 net4 net3 CLK net2 VDD VDD VSS sg13g2_dfrbp_2
x1 net4 net3 OUTN OUTP VBIAS VSS CS_Switch_16x
.ends


* expanding   symbol:  sg13g2_dfrbp_2.sym # of pins=5
** sym_path: /opt/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/sym/xschem/sg13g2_dfrbp_2.sym
** sch_path: /opt/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/sch/xschem/sg13g2_dfrbp_2.sch
.subckt sg13g2_dfrbp_2 Q Q_N CLK D RESET_B VDD VSS

*.PININFO D:I RESET_B:I CLK:I Q:O Q_N:O
MM1 Db D net12 VSS sg13_lv_nmos w=420.00n l=130.00n ng=1
MM2 net12 RESET_B VSS VSS sg13_lv_nmos w=420.00n l=130.00n ng=1
MM3 net2 clkneg net11 VSS sg13_lv_nmos w=420.00n l=130.00n ng=1
MM4 net11 net3 VSS VSS sg13_lv_nmos w=420.00n l=130.00n ng=1
MM5 net3 net2 net7 VSS sg13_lv_nmos w=420.00n l=130.00n ng=1
MM6 net7 RESET_B VSS VSS sg13_lv_nmos w=420.00n l=130.00n ng=1
MM7 Q_N net2 VSS VSS sg13_lv_nmos w=1.48u l=130.00n ng=2
MM8 net1 net2 VSS VSS sg13_lv_nmos w=640.00n l=130.00n ng=1
MM9 Q net1 VSS VSS sg13_lv_nmos w=1.48u l=130.00n ng=2
MM10 clkneg CLK VSS VSS sg13_lv_nmos w=740.00n l=130.00n ng=1
MM11 clkpos clkneg VSS VSS sg13_lv_nmos w=740.00n l=130.00n ng=1
MM12 Db clkneg net4 VSS sg13_lv_nmos w=420.00n l=130.00n ng=1
MM13 net4 clkpos net10 VSS sg13_lv_nmos w=420.00n l=130.00n ng=1
MM14 net10 net5 net6 VSS sg13_lv_nmos w=420.00n l=130.00n ng=1
MM15 net6 RESET_B VSS VSS sg13_lv_nmos w=420.00n l=130.00n ng=1
MM16 net5 net4 VSS VSS sg13_lv_nmos w=740.00n l=130.00n ng=1
MM17 net5 clkpos net2 VSS sg13_lv_nmos w=740.00n l=130.00n ng=1
MM18 Db RESET_B VDD VDD sg13_lv_pmos w=420.00n l=130.00n ng=1
MM19 Db D VDD VDD sg13_lv_pmos w=420.00n l=130.00n ng=1
MM20 net9 net3 VDD VDD sg13_lv_pmos w=420.00n l=130.00n ng=1
MM21 net2 clkpos net9 VDD sg13_lv_pmos w=420.00n l=130.00n ng=1
MM22 net3 net2 VDD VDD sg13_lv_pmos w=420.00n l=130.00n ng=1
MM23 net3 RESET_B VDD VDD sg13_lv_pmos w=420.00n l=130.00n ng=1
MM24 Q_N net2 VDD VDD sg13_lv_pmos w=2.24u l=130.00n ng=2
MM25 net1 net2 VDD VDD sg13_lv_pmos w=1.000u l=130.00n ng=1
MM26 Q net1 VDD VDD sg13_lv_pmos w=2.24u l=130.00n ng=2
MM27 clkneg CLK VDD VDD sg13_lv_pmos w=1.12u l=130.00n ng=1
MM28 clkpos clkneg VDD VDD sg13_lv_pmos w=1.12u l=130.00n ng=1
MM29 Db clkpos net4 VDD sg13_lv_pmos w=420.00n l=130.00n ng=1
MM30 net8 net5 VDD VDD sg13_lv_pmos w=420.00n l=130.00n ng=1
MM31 net4 clkneg net8 VDD sg13_lv_pmos w=420.00n l=130.00n ng=1
MM32 net4 RESET_B VDD VDD sg13_lv_pmos w=420.00n l=130.00n ng=1
MM33 net5 net4 VDD VDD sg13_lv_pmos w=1.000u l=130.00n ng=1
MM34 net5 clkneg net2 VDD sg13_lv_pmos w=1.000u l=130.00n ng=1
.ends


* expanding   symbol:  CS_Switch_1x.sym # of pins=6
** sym_path: /home/designer/shared/CS_DAC/CS_DAC-/xschem/CS_Switch_1x.sym
** sch_path: /home/designer/shared/CS_DAC/CS_DAC-/xschem/CS_Switch_1x.sch
.subckt CS_Switch_1x INN INP OUTN OUTP VBIAS VSS
*.PININFO VSS:B VBIAS:I OUTP:B OUTN:B INP:I INN:I
MM7 net1 VBIAS net2 VSS sg13_hv_nmos w=0.3u l=0.45u ng=1
MM5 net2 VBIAS VSS VSS sg13_hv_nmos w=0.3u l=0.45u ng=1
MM1 OUTP INP net1 VSS sg13_lv_nmos w=2u l=0.13u ng=1
MM2 OUTN INN net1 VSS sg13_lv_nmos w=2u l=0.13u ng=1
MM3 VSS VSS net1 VSS sg13_lv_nmos w=0.5u l=0.13u ng=1
MM4 VSS VSS net1 VSS sg13_lv_nmos w=0.5u l=0.13u ng=1
MM6 net2 VSS VSS VSS sg13_hv_nmos w=0.3u l=0.45u ng=1
MM8 net1 VSS VSS VSS sg13_hv_nmos w=0.3u l=0.45u ng=1
MM9 net2 VSS VSS VSS sg13_hv_nmos w=0.3u l=0.45u ng=1
MM10 VSS VSS VSS VSS sg13_hv_nmos w=0.3u l=0.45u ng=1
.ends


* expanding   symbol:  CS_Switch_2x.sym # of pins=6
** sym_path: /home/designer/shared/CS_DAC/CS_DAC-/xschem/CS_Switch_2x.sym
** sch_path: /home/designer/shared/CS_DAC/CS_DAC-/xschem/CS_Switch_2x.sch
.subckt CS_Switch_2x INN INP OUTN OUTP VBIAS VSS
*.PININFO VSS:B VBIAS:I OUTP:B OUTN:B INP:I INN:I
MM7 net1 VBIAS net2 VSS sg13_hv_nmos w=0.6u l=0.45u ng=1
MM5 net2 VBIAS VSS VSS sg13_hv_nmos w=0.6u l=0.45u ng=1
MM1 OUTP INP net1 VSS sg13_lv_nmos w=2u l=0.13u ng=1
MM2 OUTN INN net1 VSS sg13_lv_nmos w=2u l=0.13u ng=1
MM3 VSS VSS net1 VSS sg13_lv_nmos w=0.5u l=0.13u ng=1
MM6 VSS VSS net2 VSS sg13_hv_nmos w=0.3u l=0.45u ng=1
MM8 VSS VSS net2 VSS sg13_hv_nmos w=0.3u l=0.45u ng=1
MM9 net2 VSS VSS VSS sg13_hv_nmos w=0.3u l=0.45u ng=1
MM10 net2 VSS VSS VSS sg13_hv_nmos w=0.3u l=0.45u ng=1
MM4 VSS VSS net1 VSS sg13_lv_nmos w=0.5u l=0.13u ng=1
.ends


* expanding   symbol:  CS_Switch_4x.sym # of pins=6
** sym_path: /home/designer/shared/CS_DAC/CS_DAC-/xschem/CS_Switch_4x.sym
** sch_path: /home/designer/shared/CS_DAC/CS_DAC-/xschem/CS_Switch_4x.sch
.subckt CS_Switch_4x INN INP OUTN OUTP VBIAS VSS
*.PININFO VSS:B VBIAS:I OUTP:B OUTN:B INP:I INN:I
MM1 OUTP INP net1 VSS sg13_lv_nmos w=2u l=0.13u ng=1
MM2 OUTN INN net1 VSS sg13_lv_nmos w=2u l=0.13u ng=1
MM3 VSS VSS net1 VSS sg13_lv_nmos w=0.5u l=0.13u ng=1
MM4 VSS VSS net1 VSS sg13_lv_nmos w=0.5u l=0.13u ng=1
MM5 net1 VBIAS net2 VSS sg13_hv_nmos w=1.2u l=0.45u ng=1
MM6 net2 VBIAS VSS VSS sg13_hv_nmos w=1.2u l=0.45u ng=1
MM7 VSS VSS net2 VSS sg13_hv_nmos w=0.3u l=0.45u ng=1
MM8 VSS VSS net2 VSS sg13_hv_nmos w=0.3u l=0.45u ng=1
MM9 net2 VSS VSS VSS sg13_hv_nmos w=0.3u l=0.45u ng=1
MM10 net2 VSS VSS VSS sg13_hv_nmos w=0.3u l=0.45u ng=1
.ends


* expanding   symbol:  CS_Switch_8x.sym # of pins=6
** sym_path: /home/designer/shared/CS_DAC/CS_DAC-/xschem/CS_Switch_8x.sym
** sch_path: /home/designer/shared/CS_DAC/CS_DAC-/xschem/CS_Switch_8x.sch
.subckt CS_Switch_8x INN INP OUTN OUTP VBIAS VSS
*.PININFO VSS:B VBIAS:I OUTP:B OUTN:B INP:I INN:I
MM1 OUTP INP net1 VSS sg13_lv_nmos w=2u l=0.13u ng=1
MM2 OUTN INN net1 VSS sg13_lv_nmos w=2u l=0.13u ng=1
MM3 VSS VSS net1 VSS sg13_lv_nmos w=0.5u l=0.13u ng=1
MM4 VSS VSS net1 VSS sg13_lv_nmos w=0.5u l=0.13u ng=1
MM5 net1 VBIAS net2 VSS sg13_hv_nmos w=2.4u l=0.48u ng=1
MM6 net2 VBIAS VSS VSS sg13_hv_nmos w=2.4u l=0.48u ng=1
MM7 VSS VSS net2 VSS sg13_hv_nmos w=0.6u l=0.45u ng=1
MM8 VSS VSS net2 VSS sg13_hv_nmos w=0.6u l=0.45u ng=1
MM9 net2 VSS VSS VSS sg13_hv_nmos w=0.6u l=0.45u ng=1
MM10 net2 VSS VSS VSS sg13_hv_nmos w=0.6u l=0.45u ng=1
.ends


* expanding   symbol:  sg13g2_nand2_2.sym # of pins=3
** sym_path: /opt/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/sym/xschem/sg13g2_nand2_2.sym
** sch_path: /opt/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/sch/xschem/sg13g2_nand2_2.sch
.subckt sg13g2_nand2_2 Y A B VDD VSS

*.PININFO Y:O B:I A:I
MM1 Y A net1 VSS sg13_lv_nmos w=1.44u l=130.00n ng=2
MM2 net1 B VSS VSS sg13_lv_nmos w=1.44u l=130.00n ng=2
MM3 Y A VDD VDD sg13_lv_pmos w=2.24u l=130.00n ng=2
MM4 Y B VDD VDD sg13_lv_pmos w=2.24u l=130.00n ng=2
.ends


* expanding   symbol:  CS_Switch_16x.sym # of pins=6
** sym_path: /home/designer/shared/CS_DAC/CS_DAC-/xschem/CS_Switch_16x.sym
** sch_path: /home/designer/shared/CS_DAC/CS_DAC-/xschem/CS_Switch_16x.sch
.subckt CS_Switch_16x INN INP OUTN OUTP VBIAS VSS
*.PININFO VSS:B VBIAS:I OUTP:B OUTN:B INP:I INN:I
MM1 OUTP INP net1 VSS sg13_lv_nmos w=2u l=0.13u ng=1
MM2 OUTN INN net1 VSS sg13_lv_nmos w=2u l=0.13u ng=1
MM3 net1 VBIAS net2 VSS sg13_hv_nmos w=5.2u l=0.45u ng=1
MM4 net2 VBIAS VSS VSS sg13_hv_nmos w=5.2u l=0.45u ng=1
MM5 VSS VSS net1 VSS sg13_lv_nmos w=0.5u l=0.13u ng=1
MM6 VSS VSS net1 VSS sg13_lv_nmos w=0.5u l=0.13u ng=1
MM7 net1 VSS VSS VSS sg13_hv_nmos w=0.65u l=0.45u ng=1
MM8 net1 VSS VSS VSS sg13_hv_nmos w=0.65u l=0.45u ng=1
.ends

